US06340694B1
2-(4-(Aminosulfonyl)phenyl)-8-chloro-3-(4-fluorophenyl)-5-hydroxy-4H-1-benzopyran-4-one
To a solution of 2-(4-(aminosulfonyl)phenyl)-8-chloro-3-(4-fluorophenyl)-5-methoxy-4H-1-benzopyran-4-one(0.03 g, 0.07 mmol) in CH2C2(5 ml) was added 1.0M BBr3(0.2 ml) at a temperature of 0° C. The mixture was stirred for 4 hours at room temperature and diluted with CH2Cl2(10 ml). After being washed with water and brine, the solution was dried over anhydrous MgSO4. The crude product was purified by flash chromatography to yield the title compound as a solid(0.02 g, 74%).

reactant | 2-(4-(aminosulfonyl)phenyl)-8-chloro-3-(4-fluorophenyl)-5-methoxy-4H-1-benzopyran-4-one | 0.07 mmol, 0.03 g | NS(=O)(=O)C1=CC=C(C=C1)C=1OC2=C(C(C1C1=CC=C(C=C1)F)=O)C(=CC=C2Cl)OC | C22H15ClFNO5S
reactant | BBr3 | 1.0M, 0.2 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-(Aminosulfonyl)phenyl)-8-chloro-3-(4-fluorophenyl)-5-hydroxy-4H-1-benzopyran-4-one | 0.02 g, 74% | NS(=O)(=O)C1=CC=C(C=C1)C=1OC2=C(C(C1C1=CC=C(C=C1)F)=O)C(=CC=C2Cl)O | C21H13ClFNO5S
